US07323455B2
7-(2-Fluorophenyl)-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(H)-one
Prepared from 7-bromo-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 2-fluoro benzeneboronic acid generally according to the coupling procedure described in example 1. 1H NMR (DMSO-d6): δ 10.01 (s, 1H), 7.63 (m, 1H), 7.51-7.57 (m, 1H), 7.36-7.43 (m, 2H), 7.25-7.30 (m, 2H), 7.19 (d, J=8.32 Hz, 1H), 4.27 (s, 2H), 1.59 (s, 6H); MS (ESI) m/z 286 ([M+H]+); MS (ESI) m/z 284 ([M−H]−).

reactant | 7-bromo-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)(C)C)C1 | C11H12BrNO2
reactant | 2-fluoro benzeneboronic acid | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
product | 7-(2-Fluorophenyl)-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(H)-one | CC1(C2=C(C=CC(=C2)C3=CC=CC=C3F)NC(=O)CO1)C | C17H16FNO2
